US05344928
A mixture of N-methylaniline (16 g) and ethyl 5-bromovalerate (30.2 g) was stirred at 110° C. for 22 hours. Then the mixture was made alkaline with an aqueous sodium bicarbonate. The resulting mixture was extracted with ethyl acetate, dried over anhydrous magnesium sulfate and concentrated. The residue was distilled under reduced pressure to obtain ethyl 5-(N-methylanilino)valerate (28.6 g).

reactant | N-methylaniline | 16 g | CNC1=CC=CC=C1 | C7H9N
reactant | ethyl 5-bromovalerate | 30.2 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | ethyl 5-(N-methylanilino)valerate | 28.6 g | CN(C1=CC=CC=C1)CCCCC(=O)OCC | C14H21NO2
